US04933333
215 mg of trans-1-p-nitrobenzyloxycarbonyl-4-formyloxy-D-proline p-methoxybenzyl ester was dissolved in 1.1 ml of tetrahydrofuran, and 0.93 ml of a 1N aqueous solution of sodium hydroxide was added to the resulting solution. After stirring for 10 minutes, the reaction mixture was diluted with ethyl acetate, washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate and distilled off to remove the solvent. The resulting residue was purified by silica gel thin layer chromatography to obtain trans-1-p-nitrobenzyloxycarbonyl-4-hydroxy-D-proline p-methoxybenzyl ester.

reactant | trans-1-p-nitrobenzyloxycarbonyl-4-formyloxy-D-proline p-methoxybenzyl ester | 215 mg | COC1=CC=C(COC([C@@H]2N(C[C@H](C2)OC=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C22H22N2O9
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 1.1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trans-1-p-nitrobenzyloxycarbonyl-4-hydroxy-D-proline p-methoxybenzyl ester | COC1=CC=C(COC([C@@H]2N(C[C@H](C2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C21H22N2O8
